US06559091B1
Preparation of the Iron bis(tetrafluoroborate) Complex of h17
To a suspension of iron(II) bis(tetrafluoroborate) hexahydrate (4.9 mg; 15 μmol) in dichloromethane was added a solution of h17 (5.0 mg; 14 μmol) in a few milliliters of dichloromethane. The solution turned from light yellow to dark orange with time within 18 hours. The solution was used as is in further polymerization study.

reactant | iron(II) bis(tetrafluoroborate) hexahydrate | 15 μmol, 4.9 mg | O.O.O.O.O.O.F[B-](F)(F)F.F[B-](F)(F)F.[Fe+2]
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | a few milliliters | ClCCl | CH2Cl2
product | Iron bis(tetrafluoroborate) | F[B-](F)(F)F.F[B-](F)(F)F.[Fe+2] | InChI=1S/2BF4.Fe/c2*2-1(3,4)5;/q2*-1;+2
